US04028217
To 100 g of dried chlorell were added 800 ml of acetone. The mixture was treated in the same manner as described in Example 1 whereby 0.190 g in total of chlorophyll A and chlorophyll B was obtained.

reactant | chlorophyll A | CCC1=C(C2=NC1=CC3=C(C4=C([N-]3)C(=C5[C@H]([C@@H](C(=N5)C=C6C(=C(C(=C2)[N-]6)C=C)C)C)CCC(=O)OC/C=C(\C)/CCC[C@H](C)CCC[C@H](C)CCCC(C)C)[C@H](C4=O)C(=O)OC)C)C.[Mg+2]
reactant | acetone | 800 ml | CC(=O)C | C3H6O
product | chlorophyll B | CCC1=C(C2=NC1=CC3=C(C4=C([N-]3)C(=C5[C@H]([C@@H](C(=N5)C=C6C(=C(C(=C2)[N-]6)C=C)C)C)CCC(=O)OC/C=C(\C)/CCC[C@H](C)CCC[C@H](C)CCCC(C)C)[C@H](C4=O)C(=O)OC)C)C=O.[Mg+2] | InChI=1S/C55H71N4O6.Mg/c1-12-38-35(8)42-27-43-36(9)40(23-24-48(61)65-26-25-34(7)22-16-21-33(6)20-15-19-32(5)18-14-17-31(3)4)52(58-43)50-51(55(63)64-11)54(62)49-37(10)44(59-53(49)50)28-46-39(13-2)41(30-60)47(57-46)29-45(38)56-42;/h12,25,27-33,36,40,51H,1,13-24,26H2,2-11H3,(H-,56,57,58,59,60,62);/q-1;+2/p-1/b34-25+;/t32-,33-,36+,40+,51-;/m1./s1
